US07417169B2
(2-Acetyl-4-bromophenoxy)acetic acid
Ethyl bromoacetate (0.619 mL) was added to a mixture of 5-bromo-2-hydroxyacetophenone (1.0 g) and potassium carbonate (0.964 g) in N,N-dimethylformamide (10 mL), and the mixture was stirred at room temperature overnight. Water and ethyl acetate were added to the reaction mixture. The organic layer was separated, washed with water and brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure to afford ethyl(2-acetyl-4-bromophenoxy)acetate as a crude product. The crude ethyl(2-acetyl-4-bromophenoxy)-acetate was dissolved in ethanol (5 mL). A 2 mol/L aqueous solution of sodium hydroxide (5 mL) was added to the solution, and the mixture was stirred for 1 hr. The reaction mixture was made acidic with an addition of 2 mol/L hydrochloric acid (7 mL), and then ethyl acetate and brine were added. The organic layer was separated, washed with water and brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was recrystallized from ethyl acetate and n-hexane to afford the title compound (0.851 g).

reactant | ethyl(2-acetyl-4-bromophenoxy)-acetate | C(C)OC(COC1=C(C=C(C=C1)Br)C(C)=O)=O | C12H13BrO4
reactant | sodium hydroxide | 5 mL | [OH-].[Na+]
reactant | hydrochloric acid | 2 mol/L, 7 mL | Cl | ClH
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | brine | [Cl-].[Na+].O
product | (2-Acetyl-4-bromophenoxy)acetic acid | 0.851 g | C(C)(=O)C1=C(OCC(=O)O)C=CC(=C1)Br | C10H9BrO4
